US06153652
Synthesis of N-[(1-naphthyl)acetyl]-L-alanine iso-butyl ester
Following General Procedure B' and using 1-naphthylacetic acid (Aldrich) and L-alanine iso-butyl ester hydrochloride (from Example B' above), the title compound was prepared as a solid having a melting point of 69°-73° C. The reaction was monitored by tlc on silica gel and purification was by extraction with Et2O followed by washes with aqueous K2CO3 and aqueous HCl.

reactant | 1-naphthylacetic acid | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC([C@@H](N)C)=O
product | N-[(1-naphthyl)acetyl]-L-alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC(CC1=CC=CC2=CC=CC=C12)=O)C)=O | C19H23NO3
